US06333324B1
A mixture of ethyl (2RS)-1-(3-chloropropylsulfonyl)-4-methanesulfonylpiperazine-2-carboxylate (203 mg) and 1N aqueous sodium hydroxide (0.9 ml) in dioxane (2 ml) and EtOH (1 ml) was stirred for 2 hours at ambient temperature. The mixture was acidified with 1N HCl (0.9 ml) and concentrated in vacuo. The resulting crystals were collected with H2O, and washed with H2O and Et2O to give 165 mg of (2RS)-1-(3-chloropropylsulfonyl)-4-methanesulfonylpiperazine-2-carboxylic acid.

reactant | ethyl (2RS)-1-(3-chloropropylsulfonyl)-4-methanesulfonylpiperazine-2-carboxylate | 203 mg | ClCCCS(=O)(=O)N1C(CN(CC1)S(=O)(=O)C)C(=O)OCC | C11H21ClN2O6S2
reactant | sodium hydroxide | 1N, 0.9 ml | [OH-].[Na+]
reactant | HCl | 1N, 0.9 ml | Cl | ClH
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | EtOH | 1 ml | CCO | C2H6O
product | (2RS)-1-(3-chloropropylsulfonyl)-4-methanesulfonylpiperazine-2-carboxylic acid | 165 mg | ClCCCS(=O)(=O)N1C(CN(CC1)S(=O)(=O)C)C(=O)O | C9H17ClN2O6S2
